US07655666B2
N-(2,4-Dioxo-6-pyrazin-2-yl-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide
A solution of 2-amino-5-pyrazin-2-yl-4-trifluoromethyl-benzoic acid methyl ester (235 mg, 0.79 mmol) and 4-chlorophenyl chloroformate (133 μL, 0.95 mmol) in dioxane (8 mL) was stirred at 80° C. for 105 min. After cooling to r.t., CH3SO2NHNH2 (130.6 mg, 1.19 mmol) and i-Pr2NEt (276 μL, 1.58 mmol) were added. The mixture was heated to 80° C. for 45 min, cooled to r.t., and the solvent was removed in vacuo. The residue was purified by flash chromatography (50 g silica gel, DCM→MeOH in DCM (2% to 5%)) to provide the title compound (241.5 mg, 76%) as a white powder. API-ES: m/z 402 [M+H]+, rt 2.69 min.

reactant | 2-amino-5-pyrazin-2-yl-4-trifluoromethyl-benzoic acid methyl ester | 0.79 mmol, 235 mg | COC(C1=C(C=C(C(=C1)C1=NC=CN=C1)C(F)(F)F)N)=O | C13H10F3N3O2
reactant | 4-chlorophenyl chloroformate | 0.95 mmol, 133 μL | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | CH3SO2NHNH2 | 1.19 mmol, 130.6 mg | CS(=O)(=O)NN | CH6N2O2S
reactant | i-Pr2NEt | 1.58 mmol, 276 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | N-(2,4-Dioxo-6-pyrazin-2-yl-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 241.5 mg, 76% | O=C1NC2=CC(=C(C=C2C(N1NS(=O)(=O)C)=O)C1=NC=CN=C1)C(F)(F)F | C14H10F3N5O4S
